US09085570B2
A solution of 4-[5-methyl-4-[(piperidine-4-sulfonyl)methyl]-1,3-oxazol-2-yl]-N-(pyridin-3-ylmethyl)benzamide (300 mg, 0.66 mmol, 1.00 equiv), cyclopentanone (84 mg, 1.00 mmol, 1.51 equiv) and acetic acid (60 mg, 1.00 mmol, 1.51 equiv) in 1,2-dichloroethane (10 mL) was stirred at room temperature for 4 h. Sodium triacetoxyborohydride (420 mg, 1.98 mmol, 3.00 equiv) was added and the resulting solution was stirred overnight at room temperature. The resulting mixture was concentrated under vacuum and the residue was eluted with water/acetonitrile (95:5-20:80) on a C18 column to give 240 mg (70%) of 4-[4-[(1-cyclopentylpiperidine-4-sulfonyl)methyl]-5-methyl-1,3-oxazol-2-yl]-N-(pyridin-3-ylmethyl)benzamide as a colorless solid. LC-MS- (ES, m/z): 523 [M+H]+, 262; 1HNMR (400 MHz, CD3OD, ppm) δ 8.60 (s, 1H), 8.48 (d, 1H), 8.11 (d, 2H), 7.99 (d, 2H), 7.89 (d, 1H), 7.45 (m, 1H), 4.65 (s, 2H), 4.46 (s, 2H), 3.49 (d, 2H), 3.37 (t, 1H), 3.02 (t, 1H), 2.58-2.55 (m, 2H), 2.51 (s, 3H), 2.37 (d, 2H), 2.06-1.96 (m, 4H), 1.83-1.70 (m, 2H), 1.69-1.51 (m, 4H).

reactant | 4-[5-methyl-4-[(piperidine-4-sulfonyl)methyl]-1,3-oxazol-2-yl]-N-(pyridin-3-ylmethyl)benzamide | 0.66 mmol, 300 mg, 1.00 equiv | CC1=C(N=C(O1)C1=CC=C(C(=O)NCC=2C=NC=CC2)C=C1)CS(=O)(=O)C1CCNCC1 | C23H26N4O4S
reactant | cyclopentanone | 1.00 mmol, 84 mg, 1.51 equiv | C1(CCCC1)=O | C5H8O
reactant | acetic acid | 1.00 mmol, 60 mg, 1.51 equiv | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 1.98 mmol, 420 mg, 3.00 equiv | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 4-[4-[(1-cyclopentylpiperidine-4-sulfonyl)methyl]-5-methyl-1,3-oxazol-2-yl]-N-(pyridin-3-ylmethyl)benzamide | 240 mg, 70% | C1(CCCC1)N1CCC(CC1)S(=O)(=O)CC=1N=C(OC1C)C1=CC=C(C(=O)NCC=2C=NC=CC2)C=C1 | C28H34N4O4S
